US08710261B2
Step 1: Synthesis of 4-{[(benzyloxy)carbonyl]amino}-1-(2-biphenyl-4-ylethyl)-2-(tert-butoxycarbonyl)butyl benzoate
Benzoic acid (48.5 mg), 4-dimethylaminopyridine (24.3 mg) and triethylamine (0.08 ml) were added to a solution of tert-butyl 2-(2-{[(benzyloxy)carbonyl]amino}ethyl)-5-biphenyl-4-yl-3-hydroxypentanoate (200 mg) in dichloromethane (5 ml) at 0° C. and the reaction mixture was stirred for 15 minutes. 1-Ethyl-3-(3′-dimethylaminopropyl)-carbodiimide (152 mg) was added and the reaction mixture was stirred overnight. The reaction mixture was taken in distill water and extracted with dichloromethane (20 ml). The organic layer was washed with dilute sodium bicarbonate solution, brine solution, dried over anhydrous sodium sulphate and evaporated under vacuum. The residue thus obtained was purified by column chromatography using 10% ethyl acetate in hexane as eluent to furnish the title compound (180 mg).

reactant | Benzoic acid | 48.5 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | triethylamine | 0.08 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 2-(2-{[(benzyloxy)carbonyl]amino}ethyl)-5-biphenyl-4-yl-3-hydroxypentanoate | 200 mg | C(C1=CC=CC=C1)OC(=O)NCCC(C(=O)OC(C)(C)C)C(CCC1=CC=C(C=C1)C1=CC=CC=C1)O | C31H37NO5
reactant | 1-Ethyl-3-(3′-dimethylaminopropyl)-carbodiimide | 152 mg | C(C)N=C=NCCCN(C)C | C8H17N3
catalyst | 4-dimethylaminopyridine | 24.3 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-{[(benzyloxy)carbonyl]amino}-1-(2-biphenyl-4-ylethyl)-2-(tert-butoxycarbonyl)butyl benzoate | 180 mg | C(C1=CC=CC=C1)(=O)OC(C(CCNC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C)CCC1=CC=C(C=C1)C1=CC=CC=C1 | C38H41NO6
